US07638515B2
Ethyl-4-(3-isopropyl-2-methoxyphenyl)-4-methyl-2-oxo-pentanoate
15.3 ml (129.71 mmol) of tin tetrachloride is added in drops to a mixture, cooled to −72° C., that consists of 28.16 g (135.19 mmol) of 2-(3-isopropyl-2-methoxyphenyl)-propan-2-ol and 50.9 g (270.38 mmol) of 2-trimethylsilanyloxy-acrylic acid ethyl ester in 420 ml of dichloromethane. In this case, the temperature increased to −65° C. After 30 minutes of stirring in this temperature interval, the reaction mixture is poured into a mixture that consists of saturated sodium carbonate solution and dichloromethane (in each case 250 ml). After 30 minutes of stirring at room temperature, the batch is transferred into a spherical separating funnel and a 1:1 mixture that consists of water and dichloromethane is added until a phase separation takes place. After the organic phase is shaken with sodium carbonate, 1N HCl and water, it is dried with sodium sulfate. According to the conventional procedure, the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 20.44 g (48.35%) of the desired compound is obtained.

reactant | tin tetrachloride | 129.71 mmol, 15.3 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(3-isopropyl-2-methoxyphenyl)-propan-2-ol | 135.19 mmol, 28.16 g | C(C)(C)C=1C(=C(C=CC1)C(C)(C)O)OC | C13H20O2
reactant | 2-trimethylsilanyloxy-acrylic acid ethyl ester | 270.38 mmol, 50.9 g | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 420 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl-4-(3-isopropyl-2-methoxyphenyl)-4-methyl-2-oxo-pentanoate | 20.44 g, 48.35% | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)C(C)C)OC)=O)=O | C18H26O4
